US04333940
A solution of 5.4 g. of methyl 3-[2-fluoro-4-(hexadecylamino)benzoyl]propionate is stirred with 5.4 g. of potassium hydroxide in 100 ml. of 95% ethanol for 3 hours at reflux. The reaction mixture is cooled, diluted with 50 ml. of ethanol and 100 ml. of water, and neutralized with hydrochloric acid. The solution is cooled to room temperature and filtered. The white solid is washed with 50% aqueous ethanol and dried. The product is recrystallized from ethanol to yield 3-[2-fluoro-4-(hexadecylamino)benzoyl]propionic acid as a white crystalline solid.

reactant | methyl 3-[2-fluoro-4-(hexadecylamino)benzoyl]propionate | FC1=C(C(=O)CCC(=O)OC)C=CC(=C1)NCCCCCCCCCCCCCCCC | C27H44FNO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-[2-fluoro-4-(hexadecylamino)benzoyl]propionic acid | FC1=C(C(=O)CCC(=O)O)C=CC(=C1)NCCCCCCCCCCCCCCCC | C26H42FNO3
